US07470713B2
3-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one:
To a stirred solution of 3-[5-(4-bromo-phenyl)-1-hydroxy-1H-imidazol-2-yl]-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one (0.015 g, 0.030 mmol) in methanol (4 mL) was treated with titanium(III) chloride ((9.25 wt % in 27.4 wt % hydrochloric acid, ˜200 μL). The reaction was heated at 65° C. for 1 hour, then quenched with water and the solvents were evaporated. The residue was purified by Prep HPLC (ammonium acetate/acetonitrile/water) to give the title material (0.006 g, 41%) as a beige solid. HPLC 100% (220 nm), LCMS (+ESI, M+H+) m/z 485,487, (−ESI, M−H−) m/z 483, 485; 1H NMR (400 MHz, methanol-d4) δ (ppm): 3.64 (1H, dd, J=13.3 and 7.1 Hz), 3.74 (1H, dd, J=13.3 and 4.5 Hz), 5.03 (1H, m), 6.26 (1H, d, J=7.5 Hz), 7.23-7.56 (9H, m), 7.77 (1H, d, J=8.6 Hz).

reactant | 3-[5-(4-bromo-phenyl)-1-hydroxy-1H-imidazol-2-yl]-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one | 0.030 mmol, 0.015 g | BrC1=CC=C(C=C1)C1=CN=C(N1O)C=1C(NC=CC1NCC(O)C1=CC(=CC=C1)Cl)=O | C22H18BrClN4O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
catalyst | titanium(III) chloride | [Cl-].[Ti+3].[Cl-].[Cl-]
product | 3-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one | 0.006 g, 41% | BrC1=CC=C(C=C1)C1=CN=C(N1)C=1C(NC=CC1NCC(O)C1=CC(=CC=C1)Cl)=O | C22H18BrClN4O2
